Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___, Rash on Legs
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old male with HCV and EtOH cirrhosis s/p
liver transplant in ___ with recurrent, well-compensated
cirrhosis due to recurrent HCV (s/p 12 week tx w/ Epclusa
initiated in ___, CKD, who presents as transfer from
___ for bilateral leg purpura. 

With regard to his liver history, he received a liver transplant
at ___ in ___ for cirrhosis from EtOH and hepatitis C. 
After receiving his liver, he moved to ___ for approximately
___ years. He moved back to ___ and then moved from
___ to ___ in ___. He has not had regular 
liver
care. He saw Dr. ___ in ___ at some point but never
followed-up.

He was last seen in liver clinic on ___ ___. At 
that
time was doing well with plan for q6month MRI for elevated AFP.
Most recent MRI was ___ with recurrent cirrhosis after liver
transplant, small volume ascites, moderate splenomegaly, but no
focal hepatic lesions. He was also found to have probable
pancreatic side branch IPMNs. He was scheduled to complete 12
week course of epclusa on ___. He was continued on tacrolimus
for immunosuppression. His last EGD was in ___, which was
normal. 

Over the past ___ weeks, the patient developed bilateral lower
extremity edema, erythema (initially to his mid shins, now
decreased and localized to his ankles), and purpura. He 
indicates
that he has sharp pain in his feet, which started around the 
same
time. Mr. ___ says he has no pain when lying down but has ___
pain when he bears weight on his feet. He presented to ___ for these symptoms. Initially, they felt that his
presentation could be secondary to cellulitis, and he was 
treated
with IV ceftriaxone. Thereafter, they were worried about 
possible
drug effect from his tacrolimus. He was transferred here as he
was seen by Liver at ___. 

Outside of his lower extremity symptoms, he feels well. Denies
any subjective fevers, chills, cough, chest pain, sob, abdominal
pain, hematemesis, changes in bowel movements, fatigue. 

OSH Labs on ___:
WBC 3.5, Hgb 8.4, Ht 26.5, Plt Count 135
Na 138, K 4.2, Cl 106, Bicarb 24, BUN 55, Cr 2.61, Gluc 211, Ca
7.8
UA: <1 epi, neg nit, neg ___, neg protein, no bacteria

Earlier in the hospitalization, his AST was elevated to the 150s
but his ALT was normal. 

REVIEW OF SYSTEMS: Positive per HPI, remaining 10 point ROS
reviewed and negative.
 
Past Medical History:
HCV/EtOH cirrhosis s/p liver transplant
EtOH use
CKD
Insomnia
Depression
Chronic back pain
Osteoarthritis
GERD

 
Social History:
___
Family History:
Mother with ALS, father with lung cancer. Two sisters and
daughter in good health
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
___ Temp: 98.3 PO BP: 180/71 HR: 88 RR: 18 O2 sat: 
100%
O2 delivery: RA 
GENERAL: NAD, pleasant, lying in bed comfortably, confused but
A&Ox3
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, MMM
NECK: supple, no JVD
HEART: RRR, S1/S2, no murmurs, gallops, or rubs
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
ABDOMEN: mildly distended, nontender in all quadrants, no
rebound/guarding, +hepatosplenomegaly 
EXTREMITIES: Warm and well perfused. 2+ pitting edema 
bilaterally
to knee. No asterixis bl. 
PULSES: 2+ DP pulses bilaterally
NEURO: A&Ox3, moving all 4 extremities with purpose
SKIN: Confluent petechial and purpuric rash on mid shins
bilaterally. Bilateral erythema of feet extending to ankle. 

DISCHARGE PHYSICAL EXAMINATION:
24 HR Data (last updated ___ @ 1105)
    Temp: 98.9 (Tm 98.9), BP: 126/74 (111-148/63-80), HR: 83
(78-89), RR: 18 (___), O2 sat: 96% (95-100), O2 delivery: Ra,
Wt: 216.9 lb/98.39 kg  
GENERAL: NAD, pleasant, lying in bed comfortably, confused but
A&Ox3
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, MMM
NECK: supple, no JVD
HEART: RRR, S1/S2, no murmurs, gallops, or rubs
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
ABDOMEN: mildly distended, nontender in all quadrants, no
rebound/guarding, +hepatosplenomegaly 
EXTREMITIES: Warm and well perfused. 2+ pitting edema 
bilaterally
to knee. No asterixis bl. 
PULSES: 2+ DP pulses bilaterally
NEURO: A&Ox3, moving all 4 extremities with purpose
SKIN: Confluent petechial and purpuric rash on mid shins
bilaterally- appears to be fading. Bilateral erythema of feet
extending to ankle
 
Pertinent Results:
ADMISSION LABS:
================
___ 11:27PM GLUCOSE-184* UREA N-46* CREAT-2.0* SODIUM-136 
POTASSIUM-4.3 CHLORIDE-103 TOTAL CO2-25 ANION GAP-8*
___ 11:27PM estGFR-Using this
___ 11:27PM ALT(SGPT)-21 AST(SGOT)-50* LD(LDH)-188 ALK 
PHOS-93 TOT BILI-0.6
___ 11:27PM TOT PROT-6.4 ALBUMIN-3.0* GLOBULIN-3.4 
CALCIUM-8.7 PHOSPHATE-3.2 MAGNESIUM-2.6
___ 11:27PM HBsAg-NEG HBs Ab-POS HBc Ab-POS* HAV Ab-POS*
___ 11:27PM ANCA-NEGATIVE B
___ 11:27PM RHEU ___ CRP-46.8* dsDNA-NEGATIVE
___ 11:27PM PEP-ABNORMAL B IFE-LOW CONCEN
___ 11:27PM C3-109 C4-13
___ 11:27PM tacroFK-5.3
___ 11:27PM HCV VL-NOT DETECT
___ 11:27PM WBC-4.1 RBC-3.55* HGB-9.2* HCT-29.9* MCV-84 
MCH-25.9* MCHC-30.8* RDW-15.7* RDWSD-47.1*
___ 11:27PM NEUTS-43.3 ___ MONOS-10.2 EOS-7.0 
BASOS-0.7 IM ___ AbsNeut-1.78 AbsLymp-1.58 AbsMono-0.42 
AbsEos-0.29 AbsBaso-0.03
___ 11:27PM PLT COUNT-164
___ 11:27PM ___ PTT-30.0 ___
___ 11:27PM ___

PERTINENT STUDIES:
==================
___ US (COMPLETE ST
1. Coarsened hepatic echotexture with patent hepatic vasculature 
with
appropriate waveforms.
2. Small volume ascites.
3. Splenomegaly.

___ 11:27PM BLOOD HBsAg-NEG HBsAb-POS HBcAb-POS* HAV 
Ab-POS*
___ 11:27PM BLOOD ANCA-NEGATIVE B
___ 11:27PM BLOOD RheuFac-125* CRP-46.8* dsDNA-NEGATIVE
___ 11:27PM BLOOD PEP-ABNORMAL B IFE-LOW CONCEN
___ 11:27PM BLOOD C3-109 C4-13
___ 06:39AM BLOOD tacroFK-4.1*

DISCHARGE LABS:
===============

___ 06:39AM BLOOD WBC-3.4* RBC-3.41* Hgb-8.7* Hct-28.1* 
MCV-82 MCH-25.5* MCHC-31.0* RDW-15.6* RDWSD-46.5* Plt ___
___ 06:39AM BLOOD ___ PTT-32.7 ___
___ 06:39AM BLOOD Glucose-145* UreaN-24* Creat-1.7* Na-138 
K-4.6 Cl-104 HCO3-24 AnGap-10
___ 06:39AM BLOOD ALT-16 AST-38 AlkPhos-82 TotBili-0.5
___ 06:39AM BLOOD Albumin-2.5* Calcium-8.8 Phos-4.2 Mg-1.9
 
Brief Hospital Course:
Mr. ___ is a ___ year old male with HCV and EtOH cirrhosis s/p 
liver transplant in ___ at ___ with recurrent, 
well-compensated cirrhosis due to recurrent HCV (s/p 12 week tx 
w/ Epclusa), CKD, who presents as transfer from 
___ for bilateral leg purpura thought 
secondary to LCV and pre-renal ___

# Lower extremity purpura/petechiae
# Leukocytoclastic vasculitis > cryoglobulinemia
Patient presents with report of ___ weeks of bilateral lower 
extremity annular macules and patches with fading purpuric 
border and and central yellow/purple area over the b/l lower 
legs, with only recent new medications being epclusa (end ___, 
allopurinol (start ___, as well as oxycodone. He was seen by 
dermatology, who noted that overall the patient's rash appears 
consistent with a resolving
small vessel vasculitis with differential including resolving 
leukocytoclastic vasculitis (LCV) v. somewhat less likely 
resolving vasculitis secondary to cryoglobulinemia in the 
setting of HCV. 

LCV is a reactive process that can occur in the setting of 
infection, medication exposure, autoimmune process (much less 
likely in this patient given no other symptoms to suggest an 
autoimmune process and other etiologies that are much more 
likely), or can be idiopathic. Given that these were old and 
resolving cutaneous lesions, it was thought that biopsy was not 
likely to aid with diagnosis or differentiation between LCV and 
cryoglobulinemic vasculitis. 

Broad work up was sent; C3/C4 normal, CH50 pending. U/A was 
normal arguing against a systemic vasculitic process. ANCA was 
negative. dSDNA was negative. ___ was negative. CRP and 
RF both elevated, although no arthralgias or any manifestations 
to suggest RA. Cryoglobulins were sent but pending at time of 
discharge. SPEP pending. Hepatitis C viral load is also pending. 


# HCV and EtOH cirrhosis s/p liver transplant ___
# Hepatitis C, genotype 3, s/p epclusa
With regard to his liver history, he received a liver transplant 
at ___ in ___ for cirrhosis from EtOH and hepatitis C. 
After receiving his liver, he moved to ___ for approximately 
___ years. He moved back to ___ and then moved from 
___ to ___ in ___. He has not had regular 
liver care. He saw Dr. ___ in ___ at some point but 
never followed-up.

He was last seen in liver clinic on ___ ___. At 
that time was doing well with plan for q6month MRI for elevated 
AFP. Most recent MRI was ___ with recurrent cirrhosis after 
liver
transplant, small volume ascites, moderate splenomegaly, but no 
focal hepatic lesions. He was also found to have probable 
pancreatic side branch IPMNs- for which he requires follow up 
with Dr. ___. He was scheduled to complete 12 week course of 
epclusa on ___. He was continued on tacrolimus for 
immunosuppression. His last EGD was in ___, which was
normal. 

Upon closer review of patient's medication and refill history, I 
called all of his pharmacies including Stop and Shop, ___ 
specialty pharmacy as well as prescription solutions center. It 
is unclear who is currently writing his script for tacrolimus. 
Based on patient's physical medication bottles, it appears that 
he last filled tacrolimus 1 gm BID on ___, and this was 
written by ___ @ CHA. His PCP was contacted for 
further information, unfortunately unable to reach her prior to 
discharge. He tells us that there is 1 big bottle of tacrolimus 
that he has at home, all 1 mg tablets, but he does not know the 
prescriber nor when he had filled this. On discharge we will 
continue him on tacrolimus 1 gm BID, with ___ assistance for 
medication management. Discussed that he will bring all of his 
medications to his next liver clinic appointment for review. 

HCV viral load is pending at time of discharge. Note through 
___ Pharmacy that he did get refills for entire ___ on CKD, resolved
OSH paperwork notes that Cr in outpatient setting prior to 
admission was 1.7. Cr elevated to 3.5 on admission to OSH, 
subsequently decreased to 2.6 on transfer after IVF and holding 
diuretics, indicating likely pre-renal cause. U/A without 
evidence of infection. Initially continued to hold home 
torsemide, restarted on ___ when Cr improved to 1.6 given 
evidence ___ edema. Discharge Cr 1.7. Discharge weight 98.39 
kg (216.91 lb). Please recheck Cr at PCP follow up appointment. 

# Altered mental status, resolved
Unclear precipitant, details are unclear from OSH notes. Patient 
is able to recall some details of his hospitalization at OSH. We 
note concern for polypharmacy particularly with multiple 
sedating medications including quetiapine, oxycodone, and 
trazodone. Home trazodone was held during stay and also at 
discharge, and there was no need for oxycodone throughout stay. 
We maintained him on lactulose for goal ___ bowel movements/day, 
which was continued at discharge.

# Medication reconciliation:
Patient was initially uncertain about what medications he takes, 
noting that "it's all in the system". Reviewed his medication 
bottles that came from OSH, which included old medications that 
were first filled in ___, as well as duplicate medications (had 
bottle of spironolactone 100 mg tabs, and another of 
spironolactone 25 mg tabs, both of which were not on his most 
recent CHA medication list, as well as three different bottles 
of omeprazole). He then told us that he keeps all of his 
medications and only takes the ones he needs, but that his 
friends had grabbed all his pill bottles. With direct 
questioning he was able to tell us that he takes the following 
at home: paroxetine 20 mg daily, trazodone 50 mg qHS, tacrolimus 
1 gm BID, "water pill", quetiapine 100 mg daily, ranitidine 150 
mg BID, as well as allopurinol ___ mg daily. This appears 
consistent with CHA medication list and Stop and Shop Refills. 
However, as above, there is concern regarding who is currently 
prescribing his tacrolimus. This warrants further clarification. 
We had planned to keep patient for further medication teaching 
but he strongly desired to leave. As such, with his permission, 
we disposed of all old medications, and will arrange for ___. He 
is instructed to bring all his medications to next appointment.

CHRONIC ISSUES:
#Insomnia: Seroquel and trazodone initially held due to prior 
report of confusion; Seroquel restarted by time of discharge.
#GERD: Continue home ranitidine 150mg BID
#Gout: Restarted allopurinol at time of discharge given rash 
started prior to this medication, and ongoing diuresis. Note 
that this appears to have been a clinical diagnosis and there 
was report of high uric acid to 9.8 in OSH ED, does not appear 
to be crystal confirmed. He was off oxycodone throughout stay 
with us, without significant erythema/edema in toe/ankle.
#Depression: Paroxetine 20 mg daily

======================
TRANSITIONAL ISSUES
======================
Discharge weight: 98.39 kg (216.91 lb)
Discharge Cr: 1.7
Discharge diuretic regimen: torsemide 10 mg daily
Discharge immunosuppression: tacrolimus 1 mg BID

[] Please recheck Chem-7 at next PCP ___
[] Please reconcile medications at next liver appointment and 
clarify prescriber for tacrolimus; as above he is discharged on 
tacrolimus 1 mg BID and has bottle of medication
[] Please follow up pending labs: HCV viral load, cryoglobulins, 
CH50
[] Trazodone held at time of discharge, restart as needed
[] Requires q6 month MRI for elevated AFP, next due in ___
[] Patient needs follow up with Dr. ___ probable 
pancreatic side branch IPMNs at pancreatic cyst clinic 
[] Patient needs colonoscopy in ___ given multiple colonic 
adenomas on prior colonoscopy ___, as well as repeat EGD in ___ 
years

# CODE: FULL
# CONTACT: HCP (___, granddaughter: ___
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - Moderate 

2. Allopurinol ___ mg PO DAILY 
3. Torsemide 10 mg PO DAILY 
4. Ranitidine 150 mg PO BID 
5. QUEtiapine Fumarate 100 mg PO QHS 
6. TraZODone 50 mg PO QHS:PRN sleep 
7. PARoxetine 20 mg PO DAILY 
8. Tacrolimus 1 mg PO Q12H 
9. Capsaicin 0.025% 1 Appl TP TID 

 
Discharge Medications:
1.  Lactulose 30 mL PO TID 
RX *lactulose 10 gram/15 mL 30 gm by mouth three times a day 
Refills:*0 
2.  Allopurinol ___ mg PO DAILY  
3.  PARoxetine 20 mg PO DAILY  
4.  QUEtiapine Fumarate 100 mg PO QHS  
5.  Ranitidine 150 mg PO BID  
6.  Tacrolimus 1 mg PO Q12H  
7.  Torsemide 10 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Lower extremity rash, likely leukocytoclastic vasculitis
Acute kidney injury likely secondary to volume depletion
EtOH cirrhosis s/p liver transplant

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___!

You came to us initially because you had a rash on your legs as 
well as acute kidney injury.
While you were here, we had our dermatologists see you. They 
think that this is a rash from "leukocytoclastic vasculitis", 
which can be seen in the setting of hepatitis C or certain 
medications. As it was resolving it was thought that there was 
no need for a biopsy.

Your kidney function improved with some fluids as well as 
titration of water pills. On discharge, you will be on torsemide 
10 mg daily, which is the same dose as your primary care doctor 
had placed you on. Your weight at discharge is  98.39 kg   
(216.91 lb). Please weigh yourself daily and call your doctor if 
your weight goes up by more than 3 lbs in 2 day.

In addition, we reviewed your medications. We would strongly 
suggest throwing away any medications that you no longer need. 
We were also uncertain who was prescribing your 
immunosuppressive medication (tacrolimus); it appears that the 
last time you had this filled was in ___. We tried to contact 
your primary care doctor but had some difficulty reaching her. 
For now, we will continue you on the same dose of 1 mg twice 
daily as you had been doing at home. However, it is VERY 
IMPORTANT that  you bring all of your medications to your next 
appointment with the ___ so that we can review them.

Please take care, we wish you the very best!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___